.subckt MPPxxx_14mU   Core     Lm=41.1m Ac=19.2u
.param a=-23.74 b=0.208 c=146u d=778m e=49.9u St=2
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 



.subckt MPPxxx_26mU   Core     Lm=64.9m Ac=65.9u
.param a=211.2m b=349u c=-3.59n d=111u e=-1.23n st=2
L core 0 flux=0.1*(Ac*tanh(1g*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends  



.subckt MPPxxx_60mU   Core     Lm=41.1m Ac=19.2u
.param a=257.6m b=741u c=19.1n d=248u e=7.55n st=2
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 

.subckt MPPxxx_125mU   Core     Lm=41.1m Ac=19.2u
.param a=64.2m b=-627u c=3.25u d=99u e=53.7n st=0.5
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 

.subckt MPPxxx_147mU   Core     Lm=41.1m Ac=19.2u
.param a=65.3m b=-730u c=4.52u d=158u e=71.8n st=0.5
.param mu=147 mu0=4.e-7*pi fe=100k
.param L=mu*mu0*Ac/Lm R=L*(2*pi*Fe)
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends
.subckt MPPxxx_173mU   Core     Lm=41.1m Ac=19.2u
.param a=54.5m b=-772u c=6.51u d=68.7u e=102n st=0.5
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 

.subckt MPPxxx_160mU   Core     Lm=41.1m Ac=19.2u
.param a=44.7m b=-558u c=5.21u d=100u e=81.6n st=0.5
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 

.subckt MPPxxx_200mU   Core     Lm=41.1m Ac=19.2u
.param a=101.1m b=-1.45m c=9.13u d=60.6u e=143n st=0.5
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 

.subckt MPPxxx_300mU   Core     Lm=41.1m Ac=19.2u
.param a=94m b=-1.54m c=19.9u d=240u e=307n st=0.5
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 

.subckt MPPxxx_550mU   Core     Lm=41.1m Ac=19.2u
.param a=73m b=-1.51m c=64.8u d=637u e=993n st=0.5
L core 0 flux=0.1*(Ac*tanh(1G*(X/Lm))*((a+b*abs((X/Lm))+c*(X/Lm)**2)/(1+d*abs((X/Lm))+e*(X/Lm)**2))**st) Rser=0 ic=0
.ends 
