* Library for N-way switches
* Static switches - control with "Ctl" parameter
*
.subckt SPST0 1 2 params: Ctl=0
R1 1 2 {Sw1}
.param Sw1 if(Ctl==1,1m,1G)
.ends SPST
*
.subckt SPDT0 1 2 SW params: Ctl=1
R1 1 SW {Sw1}
R2 2 SW {Sw2}
.param Sw1 if(Ctl==1,1m,1G)
.param Sw2 if(Ctl==2,1m,1G)
.ends SPDT
*
.subckt SP3T 1 2 3 SW params: Ctl=1
R1 1 SW {Sw1}
R2 2 SW {Sw2}
R3 3 SW {Sw3}
.param Sw1 if(Ctl==1,1m,1G)
.param Sw2 if(Ctl==2,1m,1G)
.param Sw3 if(Ctl==3,1m,1G)
.ends SP3T
*
.subckt SP4T 1 2 3 4 SW params: Ctl=1
R1 1 SW {Sw1}
R2 2 SW {Sw2}
R3 3 SW {Sw3}
R4 4 SW {Sw4}
.param Sw1 if(Ctl==1,1m,1G)
.param Sw2 if(Ctl==2,1m,1G)
.param Sw3 if(Ctl==3,1m,1G)
.param Sw4 if(Ctl==4,1m,1G)
.ends SP4T
*
.subckt SP5T 1 2 3 4 5 SW params: Ctl=1
R1 1 SW {Sw1}
R2 2 SW {Sw2}
R3 3 SW {Sw3}
R4 4 SW {Sw4}
R5 5 SW {Sw5}
.param Sw1 if(Ctl==1,1m,1G)
.param Sw2 if(Ctl==2,1m,1G)
.param Sw3 if(Ctl==3,1m,1G)
.param Sw4 if(Ctl==4,1m,1G)
.param Sw5 if(Ctl==5,1m,1G)
.ends SP5T
*
.subckt SP6T 1 2 3 4 5 6 SW params: Ctl=1
R1 1 SW {Sw1}
R2 2 SW {Sw2}
R3 3 SW {Sw3}
R4 4 SW {Sw4}
R5 5 SW {Sw5}
R6 6 SW {Sw6}
.param Sw1 if(Ctl==1,1m,1G)
.param Sw2 if(Ctl==2,1m,1G)
.param Sw3 if(Ctl==3,1m,1G)
.param Sw4 if(Ctl==4,1m,1G)
.param Sw5 if(Ctl==5,1m,1G)
.param Sw6 if(Ctl==6,1m,1G)
.ends SP6T
*
.subckt SP8T 1 2 3 4 5 6 7 8 SW params: Ctl=1
R1 1 SW {Sw1}
R2 2 SW {Sw2}
R3 3 SW {Sw3}
R4 4 SW {Sw4}
R5 5 SW {Sw5}
R6 6 SW {Sw6}
R7 7 SW {Sw7}
R8 8 SW {Sw8}
.param Sw1 if(Ctl==1,1m,1G)
.param Sw2 if(Ctl==2,1m,1G)
.param Sw3 if(Ctl==3,1m,1G)
.param Sw4 if(Ctl==4,1m,1G)
.param Sw5 if(Ctl==5,1m,1G)
.param Sw6 if(Ctl==6,1m,1G)
.param Sw7 if(Ctl==7,1m,1G)
.param Sw8 if(Ctl==8,1m,1G)
.ends SP8T
*
